US08633313B2
To a stirred solution of (2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)methanol (65 mg, 0.256 mmol) in DMF (1.5 mL) was added sodium hydride (12.3 mg, 0.31 mmol, 60% suspension in oil) and the reaction was stirred at rt for 10 min. After this time 4-amino-6-chloropyrimidine-5-carbonitrile (39.5 mg, 0.256 mmol) was added and the reaction was stirred at rt for 30 min. After this time an additional portion of NaH (12.3 mg, 0.31 mmol, 60% dispersion in oil) was added and the reaction was heated at 50° C. for 2 h and at rt overnight. After this time the reaction was cooled to rt and partitioned between EtOAc (50 mL) and LiCl (20 mL, 1M aq. solution). The separated organic layer was washed with LiCl (20 mL, 1M aq. solution) and then it was dried over MgSO4, filtered and concentrated in vacuo. The mixture was purified by reversed-phase HPLC (10 to 60% acetonitrile in water) to give 4-amino-6-((2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)methoxy)-5-pyrimidinecarbonitrile as a white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.04 (1H, dd, J=4.2, 1.7 Hz), 8.61-8.66 (1H, m), 8.44-8.51 (1H, m), 8.28 (1H, s), 7.71 (1H, dd, J=8.6, 4.1 Hz), 7.36-7.56 (3H, m), 7.21 (1H, tdd, J=8.3, 8.3, 2.7, 1.2 Hz), 5.67 (2H, s), 5.62 (2H, br. s.): LC-MS (ESI) m/z 373.1 [M+H]+.

reactant | (2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)methanol | 0.256 mmol, 65 mg | FC=1C=C(C=CC1)C1=NC2=CC=CN=C2C=C1CO | C15H11FN2O
reactant | sodium hydride | 0.31 mmol, 12.3 mg | [H-].[Na+]
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 0.256 mmol, 39.5 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | NaH | 0.31 mmol, 12.3 mg | [H-].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-amino-6-((2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)methoxy)-5-pyrimidinecarbonitrile | NC1=NC=NC(=C1C#N)OCC=1C(=NC2=CC=CN=C2C1)C1=CC(=CC=C1)F | C20H13FN6O
